US05858394
A solution of 10 g of gestodene in 60 ml of pyridine is mixed with 30 ml of valeric anhydride and after the addition of 1.0 g of 4-pyrrolidinopyridine, it is held at 60° C. for 20 hours. The reaction solution is stirred into 500 ml of water, the mixture is stirred for 5 hours, and the precipitate that is produced is washed with water and dried. The crude product thus obtained is chromatographed with a pentane-diethyl ether gradient (0-50% diethyl ether) on silica gel (diameter of the column 6 cm, filling height 30 cm, grain size 0.015-0.04 mm). 11.8 g, which yields 7.9 g of gestodene valerate that is recrystallized from diethyl ether-diisopropyl ether, is eluted.

reactant | gestodene | 10 g | CC[C@]12CC[C@H]3[C@H]([C@@H]1C=C[C@]2(C#C)O)CCC4=CC(=O)CC[C@H]34 | C21H26O2
reactant | valeric anhydride | 30 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | 4-pyrrolidinopyridine | 1.0 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | water | 500 ml | O | H2O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | gestodene valerate | 7.9 g | CCCCC(=O)O[C@]1(C=C[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@H]34)CC)C#C | C26H34O3
